US08012966B2
2-(5-Chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-phenyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one
The title compound was prepared under the same conditions as described in Example 41 with 4-oxo-3-phenyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 5-chloro-1,3-dihydro-indol-2-one as starting materials to give 2-(5-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-phenyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (22 mg, 31.9%) as a yellow solid.

reactant | 4-oxo-3-phenyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | O=C1NCCC2=C1C(=C(N2)C=O)C2=CC=CC=C2 | C14H12N2O2
reactant | 5-chloro-1,3-dihydro-indol-2-one | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
product | 2-(5-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-phenyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 22 mg, 31.9% | ClC=1C=C2C(C(NC2=CC1)=O)=CC1=C(C=2C(NCCC2N1)=O)C1=CC=CC=C1 | C22H16ClN3O2
